US20010019823A1
Preparation of 4-Formylphenyl β-D-ribofuranoside
A suspension of 1-O-acetyl-2,3,5-tri-O-benzoylβ-D-ribofuranose (1 g, 2.0 mmol), p-hydroxybenzaldehyde (0.5 g, 4.1 mmol), and boron trifluoride diethyletherate (0.12 ml, 1 mmol) in 20 ml of dry dichloromethane was stirred overnight at room temperature. The solvent was removed in vacuo and the residue extracted with ethyl acetate and brine. The organic layer was dried with sodium sulfate, filtered and the solvents were removed in vacuo. The residue was not purified further, but suspended in methanol and the pH adjusted to 11 with 1.0 N aqueous NaOH. This was stirred and with occasional readjustment of the pH until t.l.c. on silica gel (eluant 1:1 ethyl acetate/hexanes) indicated only material at the solvent front or baseline. Silica gel was added directly to the reaction material and the solvent removed in vacuo. The powder was added to a column of silica gel and purified by flash chromatography with 100% ethyl acetate as eluant. The title compound was obtained as a colourless syrup.

reactant | 1-O-acetyl-2,3,5-tri-O-benzoylβ-D-ribofuranose | 2.0 mmol, 1 g | C(C)(=O)O[C@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O | C28H24O9
reactant | p-hydroxybenzaldehyde | 4.1 mmol, 0.5 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | boron trifluoride | B(F)(F)F | BF3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-Formylphenyl β-D-ribofuranoside | O([C@H]1[C@H](O)[C@H](O)[C@H](O1)CO)C1=CC=C(C=C1)C=O | C12H14O6
